US07915281B2
4-Chloro-2-(ethoxymethyl)-1-[3-(3-methylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinoline (1.87 g, 4.86 mmol) was treated with a solution of 7 M ammonia in methanol (20 mL) according to the procedure described in Part C of Example 5. The crude product was purified by flash chromatography (silica gel, gradient elution from 5% to 20% CMA in chloroform). The appropriate fractions were combined and concentrated to yield a solid that was triturated with 9:1 dichloromethane/methanol. The final material was dried under vacuum to yield 2-(ethoxymethyl)-1-[3-(3-methylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.29 mg) as a white powder, mp 163.0-164.0° C.

reactant | 4-Chloro-2-(ethoxymethyl)-1-[3-(3-methylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinoline | 4.86 mmol, 1.87 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCCC2=CC(=NO2)C)COCC | C20H21ClN4O2
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 20 mL | CO | CH4O
product | 2-(ethoxymethyl)-1-[3-(3-methylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.29 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC1=CC(=NO1)C | C20H23N5O2
